US04962119
Sodium methoxide (548.0 mg, 10.5 mmol) is added to a solution of 2-[(3-trifluoromethylphenyl)amino]-benzoic acid, 2-(aminothioxomethyl)hydrazide (1.023 g, 2.89 mmol) in 50 ml of methanol and the mixture is heated at reflux under a nitrogen atmosphere. Additional amounts of sodium methoxide (548.0 mg and 250.0 mg) are added after heating at reflux for one and two days. The volatiles are removed in vacuo and the residue dissolved in water. The aqueous solution is acidified to pH 4-5 with 1N hydrochloric acid. The resultant pale yellow solid is collected to give 934.1 mg. The solid is chromatographed, eluting with hexane:ethyl acetate (1:2) to give 580.0 mg (59%) of 5-[2-[(3-trifluoromethylphenyl)amino]phenyl]-2,4-dihydro-3H-1,2,4-triazole-3-thione, mp 275°-279° C.

reactant | Sodium methoxide | 10.5 mmol, 548.0 mg | C[O-].[Na+]
reactant | 2-[(3-trifluoromethylphenyl)amino]-benzoic acid, 2-(aminothioxomethyl)hydrazide | 2.89 mmol, 1.023 g | NC(NNC(C1=C(C=CC=C1)NC1=CC(=CC=C1)C(F)(F)F)=O)=S | C15H13F3N4OS
reactant | sodium methoxide | 548.0 mg | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-[2-[(3-trifluoromethylphenyl)amino]phenyl]-2,4-dihydro-3H-1,2,4-triazole-3-thione | 580.0 mg, 59% | FC(C=1C=C(C=CC1)NC1=C(C=CC=C1)C=1NC(NN1)=S)(F)F | C15H11F3N4S
